US06586421B2
(5aS*,10bS*)-10-(2-Fluorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole Dihydrochloride
(5aS*,10bS*)-Di(tert-butyl) 10-(2-fluorophenyl)-1,2,4,5,5a,10b-hexahydroazepino[4,5-b]indole-3,6-dicarboxylate (0.094 g, 0.19 mmol) was dissolved in a 4.0 N solution of HCl in dioxane (4 mL) and stirred at room temperature for 26.5 hours. After the reaction mixture was concentrated in vacuo CH3OH was added and the solution was concentrated in vacuo and recrystallized from CH3OH/EtOAc to give 0.054 g (72%) of a white solid as the title compound: mp 248.0-256.7° C. 1H NMR (400 MHz, DMSO-d6) δ 9.19 (m, 1 H), 9.05 (m, 1H), 7.51-7.43 (m, 2H), 7.36-7.29 (m, 3 H), 7.03-6.98 (m, 2H) 4.34-4.33 (m, 1H), 3.85 (m, 1H), 3.29 (m, 1H), 3.06 (m, 1H), 2.90 (m, 1H), 2.69-2.67 (m, 1H), 2.27 (m, 2H), 1.67 (m, 1H), 1.36-1.34 (m, 1H); 13C NMR (100 MHz, DMSO-d6) δ 159.8, 157.3, 132.7, 130.8, 130.7, 130.2, 130.1, 128.6, 126.4, 126.2, 124.8, 124.7, 115.9, 115.7, 59.7, 44.8, 43.9, 41.7, 26.5, 25.7; IR (diffuse reflectance) 2954 (s), 2847 (s), 2817 (s, b), 2755 (s), 2726 (s, b), 2668 (s, b), 2651 (s, b), 2572 (s, b), 2538 (s), 2469 (s), 2350, 2342, 1738, 1474, 771 cm−1; HRMS (FAB) calcd for C18H19FN2+H1: 283.1610 found 283.1612.

reactant | (5aS*,10bS*)-Di(tert-butyl) 10-(2-fluorophenyl)-1,2,4,5,5a,10b-hexahydroazepino[4,5-b]indole-3,6-dicarboxylate | 0.19 mmol, 0.094 g | FC1=C(C=CC=C1)C=1C=2[C@H]3[C@@H](N(C2C=CC1)C(=O)OC(C)(C)C)CCN(CC3)C(=O)OC(C)(C)C | C28H35FN2O4
reactant | HCl | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (5aS*,10bS*)-10-(2-Fluorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole Dihydrochloride | 0.054 g, 72% | Cl.Cl.FC1=C(C=CC=C1)C=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3 | InChI=1S/C18H19FN2.2ClH/c19-15-6-2-1-4-12(15)13-5-3-7-17-18(13)14-8-10-20-11-9-16(14)21-17;;/h1-7,14,16,20-21H,8-11H2;2*1H/t14-,16+;;/m1../s1
